US04446141
To 130 ml of a methanol solution containing 1.75 g of 1-[3-hydroxy-3-(3,4-dibenzyloxyphenyl)-2-propyl]-4-(2-keto-1-benzimidazolinyl)-piperidine is added 1 ml of a methanol solution containing 120 mg of hydrogen chloride, and, 0.2 g of palladium carbon is added thereto. The mixture is vigorously shaked in a hydrogen stream at room temperature. After stirring overnight, the catalyst is removed by filtration and the mother liquor is concentrated under reduced pressure. The resultant oily material is crystallized by adding a small amount of n-butanol. The crystals are collected by filtration, and dried to obtain 1.06 g of the crude crystals. Recrystallization thereof from n-butanol yields 0.8 g of 1-[3-hydroxy-3-(3,4-dihydroxyphenyl)-2-propyl]-4-(2-keto-1-benzimidazolinyl)-piperidine hydrochloride having m.p. 187°-189° C.

reactant | 1-[3-hydroxy-3-(3,4-dibenzyloxyphenyl)-2-propyl]-4-(2-keto-1-benzimidazolinyl)-piperidine | 1.75 g | OC(C(C)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C2=CC(=C(C=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2 | C35H37N3O4
reactant | hydrogen chloride | 120 mg | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.2 g | [C].[Pd]
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 130 ml | CO | CH4O
product | 1-[3-hydroxy-3-(3,4-dihydroxyphenyl)-2-propyl]-4-(2-keto-1-benzimidazolinyl)-piperidine hydrochloride | 0.8 g | Cl.OC(C(C)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C2=CC(=C(C=C2)O)O | InChI=1S/C21H25N3O4.ClH/c1-13(20(27)14-6-7-18(25)19(26)12-14)23-10-8-15(9-11-23)24-17-5-3-2-4-16(17)22-21(24)28;/h2-7,12-13,15,20,25-27H,8-11H2,1H3,(H,22,28);1H
